US09029399B2
Preparation of 1-(4-cyclopropylpyridin-3-yl)-3-(6-methylpyrimidin-4-yl)imidazolidin-2-one (41A)
Using analogous reagents and reaction conditions as described in Example 11 above, 1-(4-cyclopropylpyridin-3-yl)imidazolidin-2-one (I-1d: 100 mg, 0.492 mmol) was reacted with 4-chloro-6-methylpyrimidine (73 mg, 0.541 mmol), 2-dicyclohexyl-phosphino-2′,4′,6′-triisopropylbiphenyl (23 mg, 0.0492 mmol), Pd2(dba)3 (23 mg, 0.024 mmol), cesium carbonate (400 mg, 1.23 mmol) and toluene (10 mL) in seal tube at 115° C. for 14 hours. Purification by column chromatography on silica gel (2% methanol in chloroform) afforded 30 mg of the product (21.1% yield).

reactant | 1-(4-cyclopropylpyridin-3-yl)imidazolidin-2-one | 0.492 mmol, 100 mg | C1(CC1)C1=C(C=NC=C1)N1C(NCC1)=O | C11H13N3O
reactant | 4-chloro-6-methylpyrimidine | 0.541 mmol, 73 mg | ClC1=NC=NC(=C1)C | C5H5ClN2
reactant | cesium carbonate | 1.23 mmol, 400 mg | C([O-])([O-])=O.[Cs+].[Cs+]
catalyst | Pd2(dba)3 | 0.024 mmol, 23 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | 1-(4-cyclopropylpyridin-3-yl)-3-(6-methylpyrimidin-4-yl)imidazolidin-2-one | 30 mg, 21.1% yield | C1(CC1)C1=C(C=NC=C1)N1C(N(CC1)C1=NC=NC(=C1)C)=O | C16H17N5O
